US08106043B2
N-(4-(2-(Dimethylamino)ethyl)-3,4-dihydro-2H-benzo[b][1,4]oxazin-6-yl)thiophene-2-carboximidamide dihydrochloride:
N-(4-(2-(dimethylamino)ethyl)-3,4-dihydro-2H-benzo[b][1,4]oxazin-6-yl)thiophene-2-carboximidamide (0.065 g, 0.197 mmol) was dissolved in anhydrous MeOH (5 mL) and treated with hydrogen chloride (1M in diethyl ether; 0.433 mL, 0.433 mmol) for 5 minutes at room temperature. The reaction was then concentrated to yield the title compound as a yellow solid (58.5 mg, 73.7%). 1H NMR (DMSO-d6) δ 11.36 (brs, 1H), 11.02 (brs, 1H), 9.70 (brs, 1H), 8.69 (brs, 1H), 8.15 (app d, 2H, J=4.5 Hz), 7.37 (app t, 1H, J=4.3 Hz), 7.07 (s, 1H), 6.84 (d, 1H, J=8.3 Hz), 6.62 (d, 1H, J=8.4 Hz), 4.31-4.18 (m, 2H), 3.76-3.65 (m, 2H), 3.44-3.34 (m, 2H), 3.35-3.22 (m, 2H), 2.78, 2.77 (2×s, 6H); ESI-MS (m/z, %): 331 (MH+, free base, 100); ESI-HRMS calculated for C17H23N4OS (MH+, free base): 331.1587; observed: 331.1579.

reactant | N-(4-(2-(dimethylamino)ethyl)-3,4-dihydro-2H-benzo[b][1,4]oxazin-6-yl)thiophene-2-carboximidamide | 0.197 mmol, 0.065 g | CN(CCN1C2=C(OCC1)C=CC(=C2)NC(=N)C=2SC=CC2)C | C17H22N4OS
reactant | hydrogen chloride | 0.433 mmol, 1M, 0.433 mL | Cl | ClH
solvent | MeOH | 5 mL | CO | CH4O
product | N-(4-(2-(Dimethylamino)ethyl)-3,4-dihydro-2H-benzo[b][1,4]oxazin-6-yl)thiophene-2-carboximidamide dihydrochloride | 58.5 mg, 73.7% | Cl.Cl.CN(CCN1C2=C(OCC1)C=CC(=C2)NC(=N)C=2SC=CC2)C | InChI=1S/C17H22N4OS.2ClH/c1-20(2)7-8-21-9-10-22-15-6-5-13(12-14(15)21)19-17(18)16-4-3-11-23-16;;/h3-6,11-12H,7-10H2,1-2H3,(H2,18,19);2*1H
